US08227601B2
4-(4-(Mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
In a sealed tube was added 2-chloro-4-(mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidine (52.7 mg, 0.18 mmol), 4-aminobenzonitrile (83 mg, 0.70 mmol), TFE (1.0 mL) and TFA (0.11 mL, 1.44 mmol). The reaction mixture was stirred at 90° C. for 48 h. Upon completion of the reaction, the resulting mixture was cooled, diluted with water and washed with EtOAc. The combined organic layers were washed with NaHCO3, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by preparative TLC, eluting with hexanes:ethyl acetate (5:1-2:1), to give the product as a light yellow solid (65.7 mg, 95%).

reactant | 2-chloro-4-(mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidine | 0.18 mmol, 52.7 mg | ClC=1N=C(C2=C(N1)C=CN2C)OC2=C(C=C(C=C2C)C)C | C16H16ClN3O
reactant | 4-aminobenzonitrile | 0.70 mmol, 83 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | TFA | 1.44 mmol, 0.11 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
product | 4-(4-(Mesityloxy)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | 65.7 mg, 95% | C1(=C(C(=CC(=C1)C)C)OC=1C2=C(N=C(N1)NC1=CC=C(C#N)C=C1)C=CN2C)C | C23H21N5O
